US05576340
2-Amino-1-(3-phenoxyphenyl)ethanol
10 g of 3-phenoxybenzaldehyde cyanohydrin were added dropwise to a mixture of 5.1 g of lithium aluminum hydride and 500 ml of tetrahydrofuran, whilst ice-cooling, and the resulting mixture was heated under reflux for 4 hours. At the end of this time, 5 ml of water, 6 ml of a 15% w/v aqueous solution of sodium hydroxide and 18 ml of water were added in that order to the reaction mixture, whilst ice-cooling. Insoluble materials were filtered off, and the filtrate was concentrated by evaporation under reduced pressure. The concentrate was purified by column chromatography through silica gel, using a 3:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give the title compound having an Rf=0.32 (thin layer chromatography over silica gel, using a 5:5:1 by volume mixture of ethyl acetate, ethanol and triethylamine as the developing solvent).

reactant | 3-phenoxybenzaldehyde cyanohydrin | 10 g | C1=CC=C(C=C1)OC2=CC=CC(=C2)C(C#N)O | C14H11NO2
reactant | lithium aluminum hydride | 5.1 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 18 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | 2-Amino-1-(3-phenoxyphenyl)ethanol | NCC(O)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H15NO2
